US04920133
Methyl 3-(4-hydroxybenzoyl)benzoate (0.1 mol) in absolute ethanol (500 ml) is shaken under 50 psi of hydrogen in the presence of 10% palladium on carbon (2 g). After consumption of the starting material the suspension is filtered and evaporated to give methyl 3-(4-hydroxybenzyl)benzoate.

reactant | Methyl 3-(4-hydroxybenzoyl)benzoate | 0.1 mol | OC1=CC=C(C(=O)C=2C=C(C(=O)OC)C=CC2)C=C1 | C15H12O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 2 g | [Pd] | Pd
product | methyl 3-(4-hydroxybenzyl)benzoate | OC1=CC=C(CC=2C=C(C(=O)OC)C=CC2)C=C1 | C15H14O3
